US07495015B2
6-(2-Fluoro-phenoxy)-3-iodo-1H-indazole (1.9 g, 5.36 mmol), di-tert-butyl-dicarbonate (1.4 g, 6.43 mmol) and 4-dimethylaminopyridine (33 mg, 0.26 mmol) in THF (10 mL) was refluxed for 2.5 h. The reaction mixture was cooled to room temperature, concentrated under vacuum and the residue purified by flash chromatography Hex:EtOAc 9:1 to yield 2.4 g of 6-(2-fluoro-phenoxy)-3-iodo-indazole-1-carboxylic acid tert-butyl ester: MS: 455 (M+H).

reactant | 6-(2-Fluoro-phenoxy)-3-iodo-1H-indazole | 5.36 mmol, 1.9 g | FC1=C(OC2=CC=C3C(=NNC3=C2)I)C=CC=C1 | C13H8FIN2O
reactant | di-tert-butyl-dicarbonate | 6.43 mmol, 1.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.26 mmol, 33 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-(2-fluoro-phenoxy)-3-iodo-indazole-1-carboxylic acid tert-butyl ester | 2.4 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC=C(C=C12)OC1=C(C=CC=C1)F)I | C18H16FIN2O3
